US08981085B2
A solution of m-CPBA (7.53 g, 32.7 mmol) in DCM (10 mL) was added to a solution of tert-butyl 5,6-dihydropyridine-1(2H)-carboxylate (5.00 g, 27.3 mmol) in DCM (20 mL) at 0° C. The reaction was stirred at 0° C. for 15 minutes and then at room temperature for 3 hours. Saturated sodium sulfite solution (20 mL) and saturated sodium bicarbonate solution (30 mL) was added. The organic layer was separated, washed with brine, dried (sodium sulfate) and concentrated in vacuo to give tert-butyl 7-oxa-3-azabicyclo[4.1.0]heptane-3-carboxylate (5.36 g, 99%) as oil.

reactant | m-CPBA | 32.7 mmol, 7.53 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | tert-butyl 5,6-dihydropyridine-1(2H)-carboxylate | 27.3 mmol, 5.00 g | N1(CC=CCC1)C(=O)OC(C)(C)C | C10H17NO2
reactant | sodium sulfite | 20 mL | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 7-oxa-3-azabicyclo[4.1.0]heptane-3-carboxylate | 5.36 g, 99% | C12CN(CCC2O1)C(=O)OC(C)(C)C | C10H17NO3
